US07691882B2
(3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-yl)-dimethyl-amine
To a mixture of 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine (50 mg, 0.14 mmol) described in Example 1 and N,N-dimethylformamide (0.5 mL) were added a formaldehyde aqueous solution (34 mg, 0.42 mmol, content: 37%), α-picoline-borane (37 mg, 0.35 mmol), and acetic acid (50 μL), which was stirred overnight at the same temperature. Trifluoroacetic acid (50 μL) was added to the reaction mixture, which was stirred for 30 minutes at room temperature. The solvent was evaporated under a reduced pressure, and the residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (15 mg, 21%) as a trifluoroacetate.

reactant | 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 0.14 mmol, 50 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H19N3O2
reactant | formaldehyde | 0.42 mmol, 34 mg | C=O | CH2O
reactant | α-picoline borane | 0.35 mmol, 37 mg | N1=C(C=CC=C1)C.B
reactant | Trifluoroacetic acid | 50 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | (3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-yl)-dimethyl-amine | 15 mg, 21% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N(C)C)C=C1 | C24H23N3O2
